US06432948B1
A) 8-Cyano-1-cyclopropyl-6-fluoro-7-((1S,6S)-2-oxa-5,8-diazabicyclo[4.3.0]non-yl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
1.00 g (3.26 mmol) of 7-chloro-8-cyano-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylicacid are stirred under argon at 40-45° C. for 25 hours with 501 mg (3.91 mmol) of (1S,6S)-2-oxa-5,8-diazabicyclo[4.3.0]nonane and 0.9 ml of triethylamine in 30 ml of acetonitrile. All volatile components are removed in vacuo and the residue is recrystallized from ethanol.

reactant | 7-chloro-8-cyano-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylicacid | 3.26 mmol, 1.00 g | ClC1=C(C=C2C(C(=CN(C2=C1C#N)C1CC1)C(=O)O)=O)F | C14H8ClFN2O3
reactant | (1S,6S)-2-oxa-5,8-diazabicyclo[4.3.0]nonane | 3.91 mmol, 501 mg | [C@H]12OCCN[C@H]2CNC1 | C6H12N2O
reactant | triethylamine | 0.9 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 8-Cyano-1-cyclopropyl-6-fluoro-7-((1S,6S)-2-oxa-5,8-diazabicyclo[4.3.0]non-yl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C(#N)C=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)F)[C@]12OCCN[C@H]2CNC1 | C20H19FN4O4
